US07465836B2
1-Bromo-4-fluoro-2-((methoxymethoxy)methyl)benzene: To a solution of 2-bromo-5-fluorobenzoic acid (10.3 g, 45.3 g) in tetrahydrofuran (50 mL) was added borane-tetrahydrofuran complex (1M in tetrahydrofuran; 92 mL) at 0° C. under nitrogen atmosphere, and the mixture was stirred at room temperature overnight. Water was carefully added, and the mixture was concentrated under reduced pressure to about 50 mL. Water was added and the mixture was extracted with ethyl acetate. The organic layer was washed with brine and dried on anhydrous sodium sulfate. The solvent was removed under reduced pressure to afford 2-bromo-5-fluorobenzyl alcohol, which was converted into its methoxymethyl ether in a similar manner to Example 11, step (a) to afford 1-bromo-4-fluoro-2-((methoxymethoxy)methyl)benzene (9.64 g, 85% in 2 steps): 1H NMR (300 MHz, CDCl3) δ 3.43 (s, 3H), 4.62 (s, 2H), 4.78 (s, 2H), 6.88 (td, J=8.5, 3.2 Hz, 1H), 7.25 (dd, J=9.6, 3.1 Hz, 1H), 7.48 (dd, J=8.8, 5.3 Hz, 1H).

reactant | 1-Bromo-4-fluoro-2-((methoxymethoxy)methyl)benzene | BrC1=C(C=C(C=C1)F)COCOC | C9H10BrFO2
reactant | 2-bromo-5-fluorobenzoic acid | 10.3 g | BrC1=C(C(=O)O)C=C(C=C1)F | C7H4BrFO2
reactant | borane tetrahydrofuran | 1M, 92 mL | B.O1CCCC1
reactant | Water | O | H2O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 2-bromo-5-fluorobenzyl alcohol | BrC1=C(CO)C=C(C=C1)F | C7H6BrFO
